US05238954
A mixture of 1.7 g (9.4 mmol) of 3'-allyl-2'-hydroxyacetophenone, 2.0 g (11 mmol) of 3,4-difluorobenzoyl chloride, 1.6 g (4.7 mmol) of tetra-n-butylammonium bisulfate, 60 ml of 10% aqueous potassium hydroxide and 60 ml of benzene was heated at 60° C. for 4 hours, cooled and the phases separated. The organic phase was washed with three 60 ml portions of water, treated with 5.6 g (28 mmol) of p-toluenesulfonic acid monohydrate and an additional 60 ml of benzene and refluxed for 3 hours, using a Dean-Stark trap to remove the water in the reaction. The resulting mixture was washed with 150 ml of 8% aqueous sodium bicarbonate and then with three 60 ml portions of water. The organic phase was then concentrated in vacuo; treated with 25 ml of methanol and cooled to -20° C. After four hours the resulting solid was filtered, washed with three 5 ml portions of methanol and dried to give 1.62 g (56%) of 8-allyl-2-(3,4-difluorophenyl)-4H-benzopyran-4-one as a solid: m.p. 127°-130° C.; TLC Rf 0.48 in 3:1 toluene-methyl isobutyl ketone.

reactant | 3'-allyl-2'-hydroxyacetophenone | 9.4 mmol, 1.7 g | C(C=C)C=1C(=C(C=CC1)C(C)=O)O | C11H12O2
reactant | 3,4-difluorobenzoyl chloride | 11 mmol, 2.0 g | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
reactant | potassium hydroxide | 60 ml | [OH-].[K+]
reactant | p-toluenesulfonic acid monohydrate | 28 mmol, 5.6 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | tetra-n-butylammonium bisulfate | 4.7 mmol, 1.6 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 8-allyl-2-(3,4-difluorophenyl)-4H-benzopyran-4-one | 1.62 g, 56% | C(C=C)C1=CC=CC=2C(C=C(OC21)C2=CC(=C(C=C2)F)F)=O | C18H12F2O2
